US09079866B2
2-((3-Bromopyridin-2-yl)oxy)ethanol
Sodium hydride (1.6 g, 42 mmol) was added to cooled (ice-water bath) ethane-1,2-diol (5 mL) and the resulting mixture stirred at rt for 30 min before adding 3-bromo-2-chloropyridine (2.0 g, 100 mmol). The mixture was then heated at 130° Celsius under a N2 atmosphere overnight before cooling to rt and subjecting the reaction mixture to FCC purification to afford the title compound. 1H NMR (400 MHz, CDCl3) δ 8.05 (dd, J=4.9, 1.7, 1H), 7.82 (dd, J=7.6, 1.7, 1H), 6.80 (dd, J=7.6, 4.9, 1H), 4.54-4.50 (m, 2H), 3.97 (dd, J=8.8, 5.5, 2H), 3.18 (t, J=5.8, 1H).

reactant | Sodium hydride | 42 mmol, 1.6 g | [H-].[Na+]
reactant | 3-bromo-2-chloropyridine | 100 mmol, 2.0 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | ethane-1,2-diol | 5 mL | C(CO)O | C2H6O2
product | 2-((3-Bromopyridin-2-yl)oxy)ethanol | BrC=1C(=NC=CC1)OCCO | C7H8BrNO2
